US07714126B2
With a procedure similar to example 16 above, 5-methyl-2-phenyl-2H-[1,2,3]triazole-4-carboxylic acid [6-(cyclopropyl-methyl-amino)-pyridin-3-yl]-amide was prepared from 5-methyl-2-phenyl-2H-[1,2,3]triazole-4-carboxylic acid and N2-cyclopropyl-N2-methyl-pyridine-2,5-diamine. LCMS calcd for C19H20N6O (m/e) 348, obsd 349 (M+H).

reactant | 5-methyl-2-phenyl-2H-[1,2,3]triazole-4-carboxylic acid | CC=1C(=NN(N1)C1=CC=CC=C1)C(=O)O | C10H9N3O2
reactant | N2-cyclopropyl-N2-methyl-pyridine-2,5-diamine | C1(CC1)N(C1=NC=C(C=C1)N)C | C9H13N3
product | 5-methyl-2-phenyl-2H-[1,2,3]triazole-4-carboxylic acid [6-(cyclopropyl-methyl-amino)-pyridin-3-yl]-amide | C1(CC1)N(C1=CC=C(C=N1)NC(=O)C1=NN(N=C1C)C1=CC=CC=C1)C | C19H20N6O
